US07208493B2
N-[2-(1H-Indol-2-yl)-phenyl]-phthalamic acid
958 mg (4.6 mmol) 2-(2-Aminophenyl) indole and 675 mg (5.52 mmol, 1.2 eq) DMAP (dimethylamino pyridine) were dissolved in 35 ml anhydrous dichloromethane. The mixture was stirred for 10 min. 954 mg (6.44 mmol, 1.4 eq) of phthalic anhydride in 3 ml anhydrous dichloromethane were added and the mixture was stirred at 23° C. for three hours. To the mixture were added 20 ml dichloromethane. It was extracted with 50 ml aqueous 1 M HCl. The aqueous phase was re-extracted with 30 ml dichloromethane. The combined organic phases were dried over magnesium sulfate. The crude product was chromatographed on silica using an ethylacetate/hexane gradient (10%–90%) as mobile phase. The solvent was removed and the product was re-crystallized from ethylacetate:hexane (70:30) to obtain 654 mg of ivory colored crystals in 40% overall yield.

reactant | 2-(2-Aminophenyl) indole | 4.6 mmol, 958 mg | NC1=C(C=CC=C1)C=1NC2=CC=CC=C2C1 | C14H12N2
reactant | DMAP | 5.52 mmol, 675 mg, 1.2 eq | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | phthalic anhydride | 6.44 mmol, 954 mg, 1.4 eq | C1(C=2C(C(=O)O1)=CC=CC2)=O | C8H4O3
solvent | dichloromethane | 35 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | N-[2-(1H-Indol-2-yl)-phenyl]-phthalamic acid | N1C(=CC2=CC=CC=C12)C1=C(C=CC=C1)NC(C=1C(C(=O)O)=CC=CC1)=O | C22H16N2O3
